US09382188B2
G) 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoic acid
To a solution of ethyl 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate (200 mg) in ethanol (3.0 mL) was added 2N aqueous sodium hydroxide solution (0.38 mL), and the mixture was stirred at room temperature for 16 hr. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (164 mg) as a white solid.

reactant | ethyl 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 200 mg | C(#N)C(CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F)(C)C | C33H36FNO4
reactant | sodium hydroxide | 2N, 0.38 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 3-(3-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoic acid | 164 mg | C(#N)C(CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)O)C1CC1)C1=C(C=CC(=C1)OC)F)(C)C | C31H32FNO4
